US05322845
4'-Hydroxyacetophenone was condensed with 2-bromopyridine by Ullmann reaction to obtain 4'-(pyridine-2-yloxy)acetophenone (yield 73%). This was converted to Mannich base with dimethylamine hydrochloride and paraformaldehyde (yield 56%), which was then cyclized by reacting with 1-ethoxycarbonylmethylpyridinium chloride and ammonium acetate in N,N-dimethyl formamide, (as described in Synthesis (1976), pages 1-24) to obtain 6-[4-(pyridine-2-yloxy)phenyl]-2-pyridone (yield 32%).

reactant | 4'-Hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 4'-(pyridine-2-yloxy)acetophenone | yield 73% | N1=C(C=CC=C1)OC1=CC=C(C=C1)C(C)=O | C13H11NO2
